US07417149B2
60 ml of acetone, 30 ml of toluene and the solution in toluene of the product of Example 2 were introduced into a 500 ml flask equipped with a mechanical stirrer, a thermometer and a dropping funnel. The solution was cooled to 5-10° C. and gaseous HCl was bubbled. through the solution. The mixture was then kept at 5-10° C. for 1 h, then the precipitate was filtered out and washed with 1/1 toluene/acetone (yield 80%; 99% A)

reactant | acetone | 60 ml | CC(=O)C | C3H6O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | toluene acetone | yield 80% | C1(=CC=CC=C1)C.CC(=O)C | InChI=1S/C7H8.C3H6O/c1-7-5-3-2-4-6-7;1-3(2)4/h2-6H,1H3;1-2H3
